US05162524
Diphenylmethyl 2-[(3R, 4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-fluorosulfonyloxy-2-butenoate (XVe)
To a solution of 10.0 g (14.86 mmol) of diphenylmethyl 2-[(3R, 4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-hydroxy-2-butenoate (XIVa) in 90 mL of dry dichloromethane at -78° C., (dry ice/acetone) was added, dropwise, 2.84 mL (16.34 mmol) of diisopropylethylamine followed by 1.69 mL (16.34 mmol) of fluorosulfonic anhydride. The reaction mixture was stirred at -78° C. under an atmosphere of argon for 2.5 h before being quenched with water (50 mL). The organic layer was separated. It was further washed with brine (15 mL), 10% HCl solution (15 mL), and water (15 mL), dried (magnesium sulfate), and concentrated in vacuo to give a light yellow foam. The foam was purified further by flash chromatography (silica, 45% ethyl acetate in hexanes) to afford 9.18 g (82%) of the title product.

reactant | diphenylmethyl 2-[(3R, 4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-hydroxy-2-butenoate | 14.86 mmol, 10.0 g | C1(=CC=C(C=C1)S(=O)(=O)S[C@@H]1[C@@H](C(N1C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)O)=O)NC(COC1=CC=CC=C1)=O)C | C35H32N2O8S2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | diisopropylethylamine | 16.34 mmol, 2.84 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | fluorosulfonic anhydride | 16.34 mmol, 1.69 mL | FS(=O)(=O)OS(=O)(=O)F | F2O5S2
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | Diphenylmethyl 2-[(3R, 4R)-4-(p-toluenesulfonylthio)-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-fluorosulfonyloxy-2-butenoate | 9.18 g, 82% | C1(=CC=C(C=C1)S(=O)(=O)S[C@@H]1[C@@H](C(N1C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)OS(=O)(=O)F)=O)NC(COC1=CC=CC=C1)=O)C | C35H31FN2O10S3
